US06727264B1
2-METHYL-N-(3-{1-[3-(4-METHYLPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-(4-methylphenoxy)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 443.2 (M+H)+.

reactant | 3-(4-methylphenoxy)benzaldehyde | CC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C14H12O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[3-(4-METHYLPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC(=CC=C1)OC1=CC=C(C=C1)C)C | C29H34N2O2
